US05013863
A suspension of 1,23 g (10 mmol) of 3-aminopropylphosphonous acid in 10.4 ml (50 mmol) of hexamethyldisilazane is heated to reflux under argon for 24 hours. 5 ml of diethylene glycol dimethyl ether are added to the clear solution obtained and the mixture is heated for addtitional 2 hours and then cooled to 0°. 8.5 ml (50 mmol) of N-ethyl-N,N-diisopropyl-amine are added, followed by slow addition of 3.8 ml (50 mmol) of propargyl bromide over a period of 40 minutes. The mixture is stirred for 1 hour at 0° and 4 hours at room temperature, filtered and evaporated under high vacuum. The residue is dissolved in 10 ml of dichloromethane and extracted with 3×10 ml of lN hydrochloric acid solution. The water layer is evaporated under high vacuum and the residue obtained dissolved in 4 ml of methanol at 0°. 20 ml of propylene oxide are added during a period of 1 hour, after which time a crude product precipitates. Chromatography (silicagel Merck 230-400 ASTM, methanol) followed by recrystallization (methanol/ether) yields 3-aminopropyl(propargyl)-phosphinic acid, m.p. 172-173°.

reactant | 3-aminopropylphosphonous acid | 10 mmol, 1,23 g | NCCCP(O)O | C3H10NO2P
reactant | hexamethyldisilazane | 50 mmol, 10.4 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | N-ethyl-N,N-diisopropyl-amine | 50 mmol, 8.5 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | propargyl bromide | 50 mmol, 3.8 ml | C(C#C)Br | C3H3Br
reactant | propylene oxide | 20 ml | C1C(C)O1 | C3H6O
solvent | methanol | 4 ml | CO | CH4O
solvent | diethylene glycol dimethyl ether | 5 ml | COCCOCCOC | C6H14O3
product | 3-aminopropyl(propargyl)-phosphinic acid | NCCCP(O)(=O)CC#C | C6H12NO2P
